US07973040B2
Step 1: methyl 3-methyl-N-({[(1R,2R)-2-pent-4-en-1-ylcyclopropyl]oxy}carbonyl)-L-valyl-(4R)-4-[(3-chloro-7-methoxyquinoxalin-2-yl)oxy]-L-prolinate
A solution (0.2 M) of methyl (4R)-4-[(3-chloro-7-methoxyquinoxalin-2-yl)oxy]-L-prolinate hydrochloride in DMF was treated with 3-methyl-N-({[(1R,2R)-2-pent-4-en-1-ylcyclopropyl]oxy}carbonyl)-L-valine (1.1 eq), DIEA (5 eq) and HATU (1.2 eq). The resulting mixture was stirred at 20° C. for 5 h, then diluted with EtOAc. The organic layer was separated and washed with aqueous HCl (1 N), saturated aqueous NaHCO3 and brine. The dried organic phase was concentrated under reduced pressure to give a residue that was purified by flash chromatography (eluent 10-30% EtOAc/petroleum ether) to furnish the title compound (96%) as an oil. MS (ES+) m/z 604 (M+H)+

reactant | methyl (4R)-4-[(3-chloro-7-methoxyquinoxalin-2-yl)oxy]-L-prolinate hydrochloride | 0.2 M | Cl.ClC=1C(=NC2=CC(=CC=C2N1)OC)O[C@@H]1C[C@H](NC1)C(=O)OC
reactant | 3-methyl-N-({[(1R,2R)-2-pent-4-en-1-ylcyclopropyl]oxy}carbonyl)-L-valine | 1.1 eq | CC([C@H](NC(=O)O[C@H]1[C@@H](C1)CCCC=C)C(=O)O)(C)C | C15H25NO4
reactant | DIEA | 5 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.2 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 3-methyl-N-({[(1R,2R)-2-pent-4-en-1-ylcyclopropyl]oxy}carbonyl)-L-valyl-(4R)-4-[(3-chloro-7-methoxyquinoxalin-2-yl)oxy]-L-prolinate | 96% | CC([C@H](NC(=O)O[C@H]1[C@@H](C1)CCCC=C)C(=O)N1[C@H](C(=O)OC)C[C@H](C1)OC1=NC2=CC(=CC=C2N=C1Cl)OC)(C)C | C30H39ClN4O7
